US04520029
N-Farnesyl farnesyl carboxamide (Compound VI)
To a mixture of farnesyl carboxylic acid (7.15 g) and farnesylamine (6.95 g) in 20 ml of dimethylformamide was added at 0° C. to a solution of diphenylphosphorylazide (7.62 g) in 7 ml of dimethylformamide. Next, to this mixture was added a solution of triethylamine (3.20 g) in dimethylformamide (3 ml). The reaction mixture was kept at room temperature overnight and poured into water (900 ml). After adding table salt, this mixture was extracted with ethyl acetate. The organic phase was worked up as usual manner and gave pale yellow oil. This material was purified by silica gel chromatography by using a mixture of methanol:benzene (2:1) as the eluent and gave 11.20 g of the titled compound.

reactant | farnesyl carboxylic acid | 7.15 g | C(C=C(C)CCC=C(C)CCC=C(C)C)C(=O)O | C16H26O2
reactant | farnesylamine | 6.95 g | C(C=C(C)CCC=C(C)CCC=C(C)C)N | C15H27N
reactant | diphenylphosphorylazide | 7.62 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | table salt | [Na+].[Cl-]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 900 ml | O | H2O
solvent | triethylamine | 3.20 g | C(C)N(CC)CC | C6H15N
product | N-Farnesyl farnesyl carboxamide | 11.20 g | C(C=C(C)CCC=C(C)CCC=C(C)C)NC(=O)CC=C(C)CCC=C(C)CCC=C(C)C | C31H51NO
